2189-01-21 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Repeat chem. 7 hyperkalemic
 no ekg changes, given Ca gluc, insulin,
   d50, kayexalate
   No other issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2189-1-21**] 02:45 AM
   Insulin - Regular - [**2189-1-21**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-21**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 105 (103 - 113) bpm
   BP: 99/47(59) {94/37(55) - 112/59(69)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 94%
   Height: 69 Inch
           Total In:
                                                                     85 mL
                                                                    856 mL
   PO:
           200 mL
   TF:
   IVF:
                                                                     85 mL
                                                                    206 mL
   Blood products:
   400 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     85 mL
                                                                    856 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Vitals: HR 106  BP 112/50  RR 22  96% on 4LNC
   General: pleasant gentleman in no acute distress, following commands
   HEENT: MMM, EOM-I, sclerae anicteric
   Neck: supple, JVP 8-9 cm
   Cor: S1S2, regular tachycardic
   Lungs: Left base > right base crackles, no wheezing
   Abd: distended but soft, nontender, hypoactive bowel sounds
   Ext: 3+ pitting edema bilaterally, feet warm, cellulitis in left lower
   extremity, right elbow abrasion.
   Neuro: AOx3, strength 5/5, sensation is intact.  No asterixis
   Skin: no jaundice, multiple skin tears
   Labs / Radiology
   228 K/uL
   10.2 g/dL
   57 mg/dL
   5.2 mg/dL
   19 mEq/L
   6.3 mEq/L
   72 mg/dL
   102 mEq/L
   138 mEq/L
   31.5 %
   17.5 K/uL
        [image002.jpg]
                            [**2189-1-20**]  09:35 PM
   WBC
   17.5
   Hct
   31.5
   Plt
   228
   Cr
   5.2
   Glucose
   57
   Other labs: PT / PTT / INR:28.5/46.0/2.9, ALT / AST:[**Telephone/Fax (1) 4409**], Alk Phos
   / T Bili:337/2.5, Differential-Neuts:82.0 %, Band:3.0 %, Lymph:7.0 %,
   Mono:8.0 %, Eos:0.0 %, Albumin:3.6 g/dL, LDH:1412 IU/L, Ca++:10.2
   mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   67 y.o. male with cryptogenic cirrhosis and hepatorenal syndrome was
   admitted to OSH with PNA and transfered here for further evaluation.
   .
   # Pneumonia: HAP given recent admission.  Currently hemodynamically
   stable. CXR with R upper/middle lobe infiltrate
   - Vanc/zosyn, renally dosed
   - sputum culture, blood culture pend
   - urine legionella pend
   .
   # Hepatorenal syndrome:  Serum Creatinine on discharge here was 3.8
   with BUN of 60.  On admission to OSH was at the recent discharge level
   but trended up overnight per report.
   - only small amt of urine produced with bowel movement yesterday
   - will consult renal for follow-up and ? of transplant list
 will
   order u/s per renal
   - avoid nephrotoxins
   - renally dose meds
   - continue midodrine
   - will start octreotide
   - albumin 1.5 mg/kg today given paracentesis and will need 1mg/kg on
   day 3 -> per hepatology can start 25mg [**Hospital1 7**]
   - UA, urine eos, sediment to look for any other process contributing to
   his worsening renal function if we can get sample
   .
   # Abdominal Pain/Cirrhosis: Secondary to cryptogenic cirrhosis.
   Acceptance to transplant list per liver fellow.  Given recurrence in
   [**Last Name (LF) 4402**], [**First Name3 (LF) **] consider abdominal US with Doppler and to look for any
   abdominal pathology
   - liver/transplant following
 appreciate recs
   - abd US with Doppler this AM
 results pending
   - OSH paracentesis
 turbid serosanguinous fluid, no fluid sent for
   analysis, will need diagnostic paracentesis today to assess for SBP
   .
   # Anemia
 recent drop in Hct from 31.5 -> 23.6, some dilutional with
   pt not making urine and getting some fluids, ? GI source given new
   abdominal pain and h/o varices
   - guaiac stools
   - type and screen
   - PM Hct
   .
   # s/p left carotid endarterectomy:
   - healing well, will notify vacular team
   .
   # Left lower extremity cellulitis:
   - appreciate wound care recs
   - vanc as above
   .
   # Right elbow abrasion: secondary to slip and hitting his elbow
   overnight.  No signs or symptoms of fracture.
   - wound care recs
   .
   # Left-sided pleural effusion: Chylothorax secondary to cirrhosis.
   - monitor CXR
   - no need for thoracentesis as effusion is recurrent
   .
   # GERD: Continue PPI daily. Can resume carafate when patient able to
   take POs.
   .
   # FEN: heart healthy diet, replete lytes prn
   .
   # PPx: will hold SubQ heparain with recent blood loss, PPI, lactulose
   for BMs, start pneumo boots
   .
   # Code Status: FULL
   .
   # Communication: With patient and family. [**First Name4 (NamePattern1) 3825**] [**Known lastname 4025**] [**Telephone/Fax (1) 4028**]
   (cell), [**Telephone/Fax (1) 4029**] (home)
   .
   # Dispo: ICU for now, will reassess as issues resolve
   .
 PNEUMONIA, OTHER
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-21**] 12:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-01-22 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2189-1-21**] 08:00 AM
 ULTRASOUND - At [**2189-1-21**] 02:00 PM
 PARACENTESIS - At [**2189-1-21**] 03:49 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-1-21**] 03:00 AM
   Vancomycin - [**2189-1-21**] 06:00 AM
   Piperacillin - [**2189-1-22**] 06:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-21**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-22**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 102 (97 - 107) bpm
   BP: 105/46(59) {92/40(53) - 118/55(70)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 96% 4L
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
           Total In:
                                                                  1,880 mL
                                                                    279 mL
   PO:
                                                                    250 mL
           TF:
   IVF:
                                                                  1,080 mL
                                                                    229 mL
   Blood products:
                                                                    500 mL
                                                                     50 mL
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,865 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General: pleasant gentleman in no acute distress, sitting in chair
   HEENT: MMM, EOMI, sclerae anicteric
   Neck: supple, JVP 8-9 cm
   Cor: S1S2, regular tachycardic
   Lungs: bibasilar crackles otherwise clear (R>L)
   Abd: distended but soft, tender to palp over RUQ and LLQ, hypoactive
   bowel sounds. Areas of paracentesis clean and dry.
   Ext: 2+ pitting edema bilaterally, feet warm, cellulitis in left lower
   extremity covered w/dressing
   Skin: no jaundice, multiple skin tears, ecchymoses
   Labs / Radiology
   139 K/uL
   8.9 g/dL
   128 mg/dL
   5.8 mg/dL
   21 mEq/L
   4.2 mEq/L
   82 mg/dL
   103 mEq/L
   141 mEq/L
   26.8 %
   14.0 K/uL
        [image002.jpg]
                            [**2189-1-20**]  09:35 PM
                            [**2189-1-21**]  02:49 AM
                            [**2189-1-21**]  06:58 AM
                            [**2189-1-21**]  03:25 PM
                            [**2189-1-22**]  02:07 AM
   WBC
   17.5
   12.5
   12.7
   13.4
   14.0
   Hct
   31.5
   23.6
   24.5
   26.2
   26.8
   Plt
   [**Telephone/Fax (3) 4436**]42
   139
   Cr
   5.2
   5.0
   5.1
   5.5
   5.8
   Glucose
   57
   67
   45
   129
   128
   Other labs: PT / PTT / INR:33.6/56.8/3.5, ALT / AST:[**Telephone/Fax (1) 4437**], Alk Phos
   / T Bili:230/1.9, Differential-Neuts:87.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Albumin:4.2 g/dL, LDH:827 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   67 y.o. male with cryptogenic cirrhosis and hepatorenal syndrome was
   admitted to OSH with PNA and transfered here for further evaluation.
   .
   # Pneumonia: HAP given recent admission.  Currently hemodynamically
   stable. CXR with R upper/middle lobe infiltrate. By rounds patient had
   O2 sat 99% on 2L, significantly better than on admission. He has CP
   with coughing, ? contusion from fall that is seen on his CXR and not
   pneumonia.
   - Vanc/zosyn for pneumonia, will continue for now  but would get repeat
   CXR
   - urine legionella negative
   -? Need for sputum culture
   -pt has remained afebrile
   .
   # Hepatorenal syndrome:  Patient currently on both the liver and kidney
   transplant list. Unclear why LFTs increased on admission. Serum
   Creatinine on discharge here was 3.8 with BUN of 60.  On admission Cr
   over 5, it is unclear if this is purely HRS or if this represents
   intrinsic kidney insult. If this were the case, it would be a separate
   process and thus would make sense for transplanting both organs. At
   this time, his urine output is slowly decreasing and Cr is increasing.
   FeNa is .3, indicating some component of renal disease. Per renal
   service, he is not a candidate for HD at this time but may need to
   consider this option if he becomes symptomatic.
   - monitor UOP
   - f/u renal recs
   - avoid nephrotoxins
   - renally dose meds
   - continue midodrine (increase to 10mg), octreotide (increase to
   200mg), and albumin
   -follow LFTs
   .
   # Abdominal Pain/Cirrhosis: Secondary to cryptogenic cirrhosis.
   Acceptance to transplant list per liver fellow. At OSH, removed 3L but
   none of the fluid was sent for analysis; yesterday we did a diagnostic
   tap showing WBC 500 PMN 37  and gram stain showing 2+ PMNs. This is not
   consistent with SBP. While it is possible that his hepatic function is
   worsening given LFTs, his abdominal pain may also be secondary to his
   fall; on exam he complains of rib pain. Also, on Doppler there is no
   evidence of thrombosis. At this time, we will continue to follow
   hepatology recommendations and trend his enzymes.
   - liver/transplant following
 appreciate recs
   - f/u paracentesis results
   -consider repeat CXR to evaluate for contusion, rib fractures
   .
   # Anemia
 On admission, drop in Hct from 31.5 -> 23.6. Likely a
   dilutional effect as pt not making urine and has gotten fluids.
   However, his INR is elevated which puts him at risk of bleeding,
   especially in the setting of fall.
   - guaiac stools
   - type and screen if hct continues to fall
   - repeat hct in PM w/lytes
   -hold anticoagulation
   .
   # s/p left carotid endarterectomy: well-healed incision
   - vascular following
   .
   # Left lower extremity cellulitis:  wound care following, vanco on
   board
   - appreciate wound care recs
   - vanc as above
   .
   # Right elbow abrasion: secondary to slip and hitting his elbow
   overnight.  No signs or symptoms of fracture.
   - wound care
   .
   # Left-sided pleural effusion: Chylothorax secondary to cirrhosis.
   - monitor CXR
   - no need for thoracentesis as effusion is recurrent
   .
   # GERD: Continue PPI daily, carafate.
   .
   # FEN: heart healthy diet, replete lytes prn
   .
   # PPx: PPI, lactulose for BMs, pneumo boots
   .
   # Code Status: FULL
   .
   # Dispo: c/o to floor
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PNEUMONIA, OTHER
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-21**] 12:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with assessment and
   plan as outlined by Dr. [**Last Name (STitle) 1478**].  Creat is still rising. Plan to place
   dialysis access.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2189-1-22**] 18:00 ------